US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-4-ethynyl-6-methoxy-phthalazine (Compound 60)
In a Claisen flask, a suspension under N2 of 4-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-2-methyl-but-3-yn-2-ol (0.4 g, 1 mmole), prepared as described in example 107, in dry toluene (50 ml) was added with a catalytic amount of NaH, the mixture was refluxed, then distilled up to half volume. The mixture was left to stand overnight, then poured into water, extracted three times with CH2Cl2, discoloured with charcoal, filtered over celite and dried to give a solid which was triturated in ethyl ether to give 0.21 g of the title compound. m.p.: 210.3-211.3° C. (dec.).

reactant | 4-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-2-methyl-but-3-yn-2-ol | 1 mmole, 0.4 g | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)C#CC(C)(O)C)Cl | C20H17Cl2N3O2
reactant | NaH | [H-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-4-ethynyl-6-methoxy-phthalazine | 0.21 g | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)C#C)Cl | C17H11Cl2N3O
